US07923450B2
b) [8-(tert-Butyl-dimethyl-silanyloxy)-5,6,7,8-tetrahydro-quinazolin-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared from crude 2-(tert-butyl-dimethyl-silanyloxy)-6-[1-dimethylamino-meth-(E)-ylidene]-cyclohexanone (80 mg, 0.28 mmol) and N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (74 mg, 0.20 mmol) using in analogous manner the procedure described in example 45b). Obtained as an orange gum (27 mg, 29%). MS ISP (m/e): 466.3 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=9.49 (s, 1H), 8.32 (s, 1H), 7.72 (d, 1H), 7.65 (s, 1H), 7.54 (s, 1H), 7.18 (d, 1H), 7.02 (s, 1H), 4.60 (m, 1H), 3.78 (s, 3H), 2.60-2.70 (m, 1H), 2.14 (s, 3H), 1.86 (m, 3H), 1.72 (m, 1H), 0.85 (s, 9H), 0.20 (s, 3H), 0.05 (s, 3H).

reactant | 2-(tert-butyl-dimethyl-silanyloxy)-6-[1-dimethylamino-meth-(E)-ylidene]-cyclohexanone | 0.28 mmol, 80 mg | C(C)(C)(C)[Si](OC1C(/C(/CCC1)=C/N(C)C)=O)(C)C | C15H29NO2Si
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 0.20 mmol, 74 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
product | [8-(tert-Butyl-dimethyl-silanyloxy)-5,6,7,8-tetrahydro-quinazolin-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | C(C)(C)(C)[Si](OC1CCCC=2C=NC(=NC12)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)(C)C | C25H35N5O2Si
